* File: 3b_2_1_MUX.pex.netlist.pex
* Created: Mon Nov 24 18:11:16 2025
* Program "Calibre xACT"
* Version "v2024.4_39.16"
* Nominal Temperature: 25C
* Circuit Temperature: 27C
* 
.subckt PM_3B_2_1_MUX_VSS 1 2 3 4 5 6 43 97 98 99 100 101 102 103 104 122 139
+ 140 141 142 182
c114 182 0 0.0086669f
c115 104 0 0.0382642f
c116 103 0 0.00173648f
c117 101 0 0.0277658f
c118 100 0 0.00178799f
c119 98 0 0.0277585f
c120 97 0 0.0380111f
c121 43 0 0.0715487f
c122 6 0 0.0015902f
c123 5 0 0.00164227f
c124 4 0 0.0047042f
c125 3 0 0.0022258f
c126 2 0 0.00438354f
c127 1 0 0.0019339f
r128 184 185 0.466379
r129 183 184 1.63233
r130 182 185 2.09871
r131 179 183 8.86121
r132 179 180 7.92845
r133 174 175 1.86552
r134 173 174 4.19742
r135 172 177 8.39483
r136 172 175 2.3319
r137 169 173 4.4306
r138 169 170 3.96423
r139 167 170 20.9871
r140 165 167 25.4177
r141 160 162 12.5922
r142 157 160 25.1845
r143 157 158 20.9871
r144 155 158 4.19742
r145 151 152 0.932759
r146 150 151 6.52931
r147 149 152 3.26466
r148 146 150 1.86552
r149 146 147 8.39483
r150 142 180 3.03147
r151 142 177 5.59655
r152 141 165 11.1931
r153 141 162 13.9914
r154 140 155 11.4263
r155 140 149 13.7582
r156 139 147 3.03147
r157 94 95 15.9139
r158 93 104 0.185185
r159 93 95 7.95695
r160 91 179 96.0901
r161 91 94 13.2616
r162 85 103 0.314815
r163 85 102 0.314815
r164 85 86 15.9139
r165 83 169 23.8924
r166 83 86 31.5331
r167 77 101 0.277778
r168 77 78 15.9139
r169 75 165 23.8924
r170 75 78 31.5331
r171 69 100 0.314815
r172 69 99 0.314815
r173 69 70 15.9139
r174 67 160 23.8924
r175 67 70 31.5331
r176 61 62 15.9139
r177 60 98 0.277778
r178 60 62 15.9139
r179 58 155 23.8924
r180 58 61 15.6192
r181 52 97 0.185185
r182 52 53 23.8708
r183 50 146 96.0901
r184 50 53 13.2616
r185 44 45 55.9457
r186 43 182 28.9688
r187 43 45 39.6282
r188 39 40 51.2835
r189 38 172 9.65625
r190 38 40 39.6282
r191 35 36 51.2835
r192 34 35 74.5942
r193 31 32 74.5942
r194 30 31 51.2835
r195 29 167 9.65625
r196 29 34 86.2496
r197 29 32 90.9117
r198 25 26 51.2835
r199 24 162 9.65625
r200 24 26 37.2971
r201 21 22 51.2835
r202 20 21 74.5942
r203 17 18 74.5942
r204 16 17 51.2835
r205 15 157 9.65625
r206 15 20 88.5806
r207 15 18 88.5806
r208 11 12 55.9457
r209 10 149 9.65625
r210 10 12 34.966
r211 6 91 0.294702
r212 6 44 34.966
r213 6 38 249.424
r214 5 83 0.294702
r215 5 39 37.2971
r216 5 36 37.2971
r217 4 75 0.294702
r218 4 30 37.2971
r219 4 24 251.755
r220 3 67 0.294702
r221 3 25 37.2971
r222 3 22 37.2971
r223 2 58 0.294702
r224 2 16 37.2971
r225 2 10 251.755
r226 1 50 0.294702
r227 1 11 34.966
.ends

.subckt PM_3B_2_1_MUX_VDD 46 53 56 64 72 80 88 96 104 112 119 120 126 127 128
+ 129 130 131 132 133 159 172 173 174 175 176 225 228 230 236
c123 241 0 4.33371e-19
c124 236 0 0.00287988f
c125 230 0 1.79202e-19
c126 228 0 0.00115852f
c127 225 0 0.00130043f
c128 176 0 0.0113975f
c129 133 0 0.0388024f
c130 132 0 0.002303f
c131 130 0 0.0380801f
c132 129 0 0.00217772f
c133 127 0 0.0380694f
c134 126 0 0.0379683f
c135 120 0 0.00609633f
c136 112 0 0.00299554f
c137 104 0 3.65671e-19
c138 96 0 0.00317496f
c139 88 0 0.00306605f
c140 80 0 5.68209e-19
c141 72 0 0.00292192f
c142 64 0 0.00304581f
c143 56 0 0.00205061f
c144 53 0 0.00334977f
c145 46 0 0.0634441f
r146 237 238 1.63233
r147 236 238 2.09871
r148 234 237 8.86121
r149 232 241 0.777784
r150 232 234 3.73104
r151 228 230 10.4935
r152 226 227 0.699569
r153 225 226 3.49785
r154 224 241 0.202133
r155 224 227 4.19742
r156 223 228 1.02627
r157 223 225 18.8884
r158 219 220 1.86552
r159 218 222 8.62802
r160 218 220 2.09871
r161 215 219 8.62802
r162 215 216 16.5565
r163 211 212 2.09871
r164 210 211 4.19742
r165 209 216 8.62802
r166 209 212 14.4578
r167 207 210 4.4306
r168 202 203 2.09871
r169 201 205 8.39483
r170 201 203 2.09871
r171 198 202 8.39483
r172 198 199 16.7897
r173 194 195 2.09871
r174 193 194 4.19742
r175 192 199 8.39483
r176 192 195 14.691
r177 190 193 4.19742
r178 185 186 0.932759
r179 184 185 6.52931
r180 183 188 8.39483
r181 183 186 3.26466
r182 180 184 1.86552
r183 180 181 8.39483
r184 176 241 0.777784
r185 175 176 1.63233
r186 175 222 6.99569
r187 174 207 11.6595
r188 174 205 5.13017
r189 173 190 11.8927
r190 173 188 4.89698
r191 172 181 1.63233
r192 115 234 96.0901
r193 115 116 13.2616
r194 112 133 0.185185
r195 112 116 23.8708
r196 107 215 23.8924
r197 107 108 15.6192
r198 104 132 0.185185
r199 104 108 23.8708
r200 99 209 23.8924
r201 99 100 15.6192
r202 96 131 0.185185
r203 96 100 23.8708
r204 91 207 23.8924
r205 91 92 15.6192
r206 88 130 0.185185
r207 88 92 23.8708
r208 83 198 23.8924
r209 83 84 15.6192
r210 80 129 0.185185
r211 80 84 23.8708
r212 75 192 23.8924
r213 75 76 15.6192
r214 72 128 0.185185
r215 72 76 23.8708
r216 67 190 23.8924
r217 67 68 15.6192
r218 64 127 0.185185
r219 64 68 23.8708
r220 59 180 96.0901
r221 59 60 13.2616
r222 56 126 0.185185
r223 56 60 23.8708
r224 53 230 19.38
r225 47 48 55.9457
r226 46 236 28.9688
r227 46 48 34.966
r228 42 43 51.2835
r229 41 218 9.65625
r230 41 43 37.2971
r231 38 39 51.2835
r232 37 38 74.5942
r233 34 35 74.5942
r234 33 34 51.2835
r235 32 209 9.65625
r236 32 99 0.294702
r237 32 37 88.5806
r238 32 35 88.5806
r239 28 29 51.2835
r240 27 201 9.65625
r241 27 29 37.2971
r242 24 25 51.2835
r243 23 24 74.5942
r244 20 21 74.5942
r245 19 20 51.2835
r246 18 192 9.65625
r247 18 75 0.294702
r248 18 23 88.5806
r249 18 21 88.5806
r250 14 15 55.9457
r251 13 183 9.65625
r252 13 15 34.966
r253 9 115 0.294702
r254 9 47 34.966
r255 9 41 251.755
r256 8 107 0.294702
r257 8 42 37.2971
r258 8 39 37.2971
r259 6 91 0.294702
r260 6 33 37.2971
r261 6 27 251.755
r262 5 83 0.294702
r263 5 28 37.2971
r264 5 25 37.2971
r265 3 67 0.294702
r266 3 19 37.2971
r267 3 13 251.755
r268 2 59 0.294702
r269 2 14 34.966
r270 1 119 24.1072
r271 1 120 24.1072
r272 1 53 0.828838
.ends

.subckt PM_3B_2_1_MUX_A<2> 3 8 9 15 22
c29 22 0 7.413e-19
c30 15 0 0.0133479f
c31 9 0 8.44063e-20
c32 3 0 0.00448163f
r33 22 23 4.4306
r34 20 23 6.06293
r35 15 20 0.202133
r36 3 22 19.38
r37 3 8 24.1072
r38 3 9 24.1072
.ends

.subckt PM_3B_2_1_MUX_NET4 6 10 16 21 24 27 30 35 36 37 38 39 40 59 63 69 73 74
+ 78 82 92 97 106 111 121 135 138 139 140
c133 140 0 5.7514e-19
c134 139 0 5.90824e-19
c135 138 0 5.50195e-19
c136 135 0 0.00125131f
c137 121 0 0.00153822f
c138 111 0 3.00853e-19
c139 106 0 0.00161475f
c140 97 0 0.0030016f
c141 92 0 7.52495e-19
c142 78 0 1.70551e-19
c143 74 0 7.92371e-19
c144 73 0 0.00179225f
c145 69 0 0.00245291f
c146 40 0 2.08874e-19
c147 39 0 0.00317045f
c148 38 0 7.82985e-19
c149 37 0 0.00263577f
c150 30 0 0.0392004f
c151 27 0 0.0439863f
c152 24 0 0.00216427f
c153 21 0 0.00113347f
c154 16 0 0.00165526f
c155 10 0 0.0010695f
c156 6 0 0.00146686f
r157 135 136 2.09871
r158 133 136 4.19742
r159 130 131 2.09871
r160 128 131 4.19742
r161 124 125 11.8927
r162 123 124 0.699569
r163 122 123 3.49785
r164 121 122 1.39914
r165 120 125 2.09871
r166 118 121 1.39914
r167 116 117 10.7267
r168 115 116 1.86552
r169 114 115 4.19742
r170 113 114 6.29612
r171 112 140 0.777784
r172 112 113 2.09871
r173 111 118 1.02627
r174 111 117 8.39483
r175 108 109 5.13017
r176 107 108 4.19742
r177 106 107 1.16595
r178 105 109 5.36336
r179 103 140 0.202133
r180 103 106 5.13017
r181 101 102 10.4935
r182 100 101 2.09871
r183 99 100 4.19742
r184 98 139 0.777784
r185 98 99 8.39483
r186 97 140 0.777784
r187 97 102 21.2203
r188 94 95 9.56078
r189 93 94 3.03147
r190 92 93 1.16595
r191 91 95 2.09871
r192 89 139 0.202133
r193 89 92 5.13017
r194 87 88 10.4935
r195 86 87 2.09871
r196 85 86 4.19742
r197 84 85 6.29612
r198 83 138 0.777784
r199 83 84 2.09871
r200 82 139 0.777784
r201 82 88 8.39483
r202 79 80 5.13017
r203 78 79 4.19742
r204 77 80 5.36336
r205 75 138 0.202133
r206 75 78 4.89698
r207 74 130 2.09871
r208 73 138 0.777784
r209 73 74 20.9871
r210 71 72 7.46207
r211 70 71 10.4935
r212 69 70 4.19742
r213 68 135 0.107873
r214 68 72 0.932759
r215 67 130 0.107873
r216 67 69 17.4892
r217 33 133 19.38
r218 30 63 0.185185
r219 30 33 18.5662
r220 27 59 0.185185
r221 24 128 19.38
r222 24 27 15.0298
r223 21 120 19.38
r224 16 105 19.38
r225 10 91 19.38
r226 10 38 19.2857
r227 6 77 19.38
r228 6 35 24.1072
r229 6 37 19.2857
r230 4 40 19.2857
r231 4 21 0.996368
r232 3 36 24.1072
r233 3 39 19.2857
r234 3 16 0.996368
.ends

.subckt PM_3B_2_1_MUX_A<1> 2 8 9 10 20 22
c31 22 0 7.7304e-19
c32 10 0 1.13401e-19
c33 9 0 0.00549938f
c34 2 0 0.00189585f
r35 20 22 3.49785
r36 4 22 19.38
r37 4 8 24.1072
r38 4 9 19.2857
r39 2 10 19.2857
r40 2 4 53.8039
.ends

.subckt PM_3B_2_1_MUX_XI1.NET2 3 7 13 17 18 24 25 28 29 32 41 44 45 51 57 60
c63 60 0 3.89714e-19
c64 57 0 4.32365e-19
c65 51 0 2.84603e-19
c66 45 0 0.00162553f
c67 44 0 8.08035e-19
c68 41 0 3.59036e-19
c69 32 0 6.5389e-19
c70 29 0 9.78762e-19
c71 25 0 0.00258415f
c72 18 0 0.00326141f
c73 13 0 0.0012742f
c74 7 0 5.40802e-19
c75 3 0 0.00136583f
r76 57 58 2.09871
r77 55 58 4.19742
r78 51 53 2.09871
r79 49 53 6.99569
r80 47 48 4.19742
r81 46 60 0.202133
r82 46 47 8.39483
r83 45 49 1.02627
r84 45 48 8.39483
r85 43 60 0.777784
r86 43 44 6.7625
r87 41 42 7.46207
r88 40 60 0.777784
r89 40 42 6.99569
r90 39 57 0.107873
r91 39 41 5.13017
r92 37 38 2.09871
r93 36 37 4.19742
r94 34 36 4.19742
r95 32 44 1.02627
r96 32 38 6.29612
r97 13 55 19.38
r98 13 25 0.314815
r99 13 24 0.314815
r100 10 34 19.38
r101 7 29 0.209877
r102 7 28 0.209877
r103 7 10 16.2086
r104 3 51 19.38
r105 3 17 24.1072
r106 3 18 19.2857
.ends

.subckt PM_3B_2_1_MUX_A<0> 2 9 10 11 21 23
c29 23 0 8.45107e-19
c30 11 0 1.85364e-19
c31 10 0 0.005999f
c32 2 0 0.00188402f
r33 21 23 3.73104
r34 6 23 19.38
r35 2 11 19.2857
r36 2 6 52.8075
r37 1 9 24.1072
r38 1 10 19.2857
r39 1 6 0.996368
.ends

.subckt PM_3B_2_1_MUX_XI2.NET2 5 8 14 18 19 25 26 29 30 33 42 45 46 52 58 61
c62 61 0 3.65519e-19
c63 58 0 2.63333e-19
c64 52 0 5.73384e-19
c65 46 0 0.00153295f
c66 45 0 7.66491e-19
c67 42 0 2.65172e-19
c68 33 0 6.91274e-19
c69 30 0 8.69548e-19
c70 26 0 0.00285545f
c71 19 0 0.00264678f
c72 14 0 9.28709e-19
c73 8 0 3.99798e-19
c74 5 0 0.00124216f
r75 58 59 2.09871
r76 56 59 4.4306
r77 52 54 2.09871
r78 50 54 6.99569
r79 48 49 4.19742
r80 47 61 0.202133
r81 47 48 8.39483
r82 46 50 1.02627
r83 46 49 8.39483
r84 44 61 0.777784
r85 44 45 6.7625
r86 42 43 7.46207
r87 41 61 0.777784
r88 41 43 6.99569
r89 40 58 0.107873
r90 40 42 5.13017
r91 38 39 1.86552
r92 37 38 4.19742
r93 35 37 4.19742
r94 33 45 1.02627
r95 33 39 6.52931
r96 14 56 19.38
r97 14 26 0.314815
r98 14 25 0.314815
r99 11 35 19.38
r100 8 30 0.209877
r101 8 29 0.209877
r102 8 11 16.2086
r103 5 52 19.38
r104 1 18 24.1072
r105 1 19 19.2857
r106 1 5 0.996368
.ends

.subckt PM_3B_2_1_MUX_Y<1> 2 5 8 13 17 21 25 32 38
c28 38 0 4.59397e-19
c29 32 0 7.45321e-19
c30 25 0 0.00197477f
c31 8 0 0.038526f
c32 5 0 0.0295342f
c33 2 0 0.00212426f
r34 38 39 2.09871
r35 36 39 4.19742
r36 32 33 2.09871
r37 30 33 4.19742
r38 27 28 6.7625
r39 26 27 0.699569
r40 23 38 0.107873
r41 23 28 0.23319
r42 22 32 0.107873
r43 22 25 9.56078
r44 21 26 13.0586
r45 21 25 1.63233
r46 11 36 19.38
r47 8 17 0.185185
r48 8 11 16.798
r49 5 13 0.277778
r50 2 30 19.38
r51 2 5 2.94702
.ends

.subckt PM_3B_2_1_MUX_Y<0> 2 5 8 13 17 21 25 30 36
c27 36 0 5.19828e-19
c28 30 0 5.79299e-19
c29 25 0 0.00174125f
c30 8 0 0.0386867f
c31 5 0 0.0294568f
c32 2 0 0.00229402f
r33 36 37 2.09871
r34 34 37 4.4306
r35 30 31 2.09871
r36 28 31 4.4306
r37 23 36 0.107873
r38 23 26 6.99569
r39 22 30 0.107873
r40 22 25 11.8927
r41 21 26 13.2918
r42 21 25 2.09871
r43 11 34 19.38
r44 8 17 0.185185
r45 8 11 16.798
r46 5 13 0.277778
r47 2 28 19.38
r48 2 5 8.84105
.ends

.subckt PM_3B_2_1_MUX_Y<2> 2 5 8 13 17 21 25 32 38
c17 38 0 5.37916e-19
c18 32 0 3.89879e-19
c19 25 0 0.00335308f
c20 8 0 0.0391207f
c21 5 0 0.0419432f
c22 2 0 0.00205619f
r23 38 39 2.09871
r24 36 39 4.19742
r25 32 33 2.09871
r26 29 33 4.66379
r27 25 26 16.0901
r28 23 32 0.107873
r29 23 27 18.8884
r30 22 38 0.107873
r31 22 25 1.39914
r32 21 27 1.86552
r33 21 26 2.3319
r34 11 29 19.38
r35 8 17 0.185185
r36 8 11 18.5662
r37 5 13 0.185185
r38 2 36 19.38
r39 2 5 15.0298
.ends

.subckt PM_3B_2_1_MUX_XI1.NET1__2 1 2
c2 2 0 0.00143676f
r3 1 2 0.62963
.ends

.subckt PM_3B_2_1_MUX_XI1.NET1 1 2
c2 2 0 0.00121171f
r3 1 2 0.62963
.ends

.subckt PM_3B_2_1_MUX_XI2.NET1__2 1 2
c2 2 0 0.00142592f
r3 1 2 0.62963
.ends

.subckt PM_3B_2_1_MUX_XI2.NET1 1 2
c2 2 0 0.00121137f
r3 1 2 0.62963
.ends

