************************************************************************
* auCdl Netlist:
* 
* Library Name:  ECE555
* Top Cell Name: 3b_2_1_MUX
* View Name:     schematic
* Netlisted on:  Nov 24 18:11:06 2025
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: ECE555
* Cell Name:    INV
* View Name:    schematic
************************************************************************

.SUBCKT INV IN OUT vdd vss
*.PININFO IN:I OUT:O vdd:B vss:B
MM0 OUT IN vss vss nmos_rvt w=81.0n l=20n nfin=3
MM1 OUT IN vdd vdd pmos_rvt w=81.0n l=20n nfin=3
.ENDS

************************************************************************
* Library Name: ECE555
* Cell Name:    AND_2
* View Name:    schematic
************************************************************************

.SUBCKT AND_2 A B Y vdd vss
*.PININFO A:I B:I Y:O vdd:B vss:B
MM2 Y net2 vss vss nmos_rvt w=54.0n l=20n nfin=2
MM1 net2 B net1 vss nmos_rvt w=108.00n l=20n nfin=4
MM0 net1 A vss vss nmos_rvt w=108.00n l=20n nfin=4
MM5 Y net2 vdd vdd pmos_rvt w=81.0n l=20n nfin=3
MM4 net2 B vdd vdd pmos_rvt w=81.0n l=20n nfin=3
MM3 net2 A vdd vdd pmos_rvt w=81.0n l=20n nfin=3
.ENDS

************************************************************************
* Library Name: ECE555
* Cell Name:    3b_2_1_MUX
* View Name:    schematic
************************************************************************

.SUBCKT 3b_2_1_MUX A<2> A<1> A<0> VDD VSS Y<2> Y<1> Y<0>
*.PININFO A<2>:I A<1>:I A<0>:I Y<2>:O Y<1>:O Y<0>:O VDD:B VSS:B
XI4 VDD Y<2> VDD VSS / INV
XI0 A<2> net4 VDD VSS / INV
XI2 net4 A<0> Y<0> VDD VSS / AND_2
XI1 net4 A<1> Y<1> VDD VSS / AND_2
.ENDS

